US08119806B2
Methyl (1R,3R,4R)-3-fluoro-4-hydroxy-cyclopentanecarboxylate
To a solution of methyl (1S,5R)-6-oxabicyclo[3.1.0]hexane-3-carboxylate (300 mg, 2.110 mmol) in 3 ml of dichloroethane in a Teflon tube was added hydrogen fluoride-pyridine (0.190 ml, 2.110 mmol and allowed to stir at ambient for 6 hrs. Carefully poured onto 5 ml ice/NaHCO3 and extracted with three portions of DCM. Dried over sodium sulfate followed by Silica gel chromatgraphy with 30-50% Acetone-hexane to give title compound. 1H NMR (500 MHz, CDCl3) δ 1.96-2.03 (m, 1H), δ 2.12-2.32 (m, 3H), δ 2.38-2.52 (m, 1H), δ 3.12 (m, 1H), δ 3.72 (s, 3H), δ 4.34 (m, 1H), δ 4.86 (d of m, J=51.5 Hz, 1H)

reactant | methyl (1S,5R)-6-oxabicyclo[3.1.0]hexane-3-carboxylate | 2.110 mmol, 300 mg | [C@@H]12CC(C[C@H]2O1)C(=O)OC | C7H10O3
reactant | hydrogen fluoride-pyridine | N1=CC=CC=C1.F
solvent | dichloroethane | 3 ml | ClC(C)Cl | C2H4Cl2
product | Methyl (1R,3R,4R)-3-fluoro-4-hydroxy-cyclopentanecarboxylate | F[C@@H]1C[C@@H](C[C@H]1O)C(=O)OC | C7H11FO3
